US07067506B2
Step 2: 4-Amino-3-(pyridin-3-ylmethoxy)-benzoic acid methyl ester.
To a stirred, cooled (about 0° C.) solution of 4-nitro-3-(pyridin-3-ylmethoxy)-benzoic acid methyl ester (288 mg, 1.0 mmol) in methanol (2 mL) and saturated aqueous ammonium chloride (1 mL) was added zinc dust (131 mg, 2.0 mmol). After stirring for 12 hours, the reaction was diluted with 30 mL of ethyl acetate and washed with 30 mL of 10% aqueous sodium carbonate (2×30 mL), brine (1×30 mL), then dried (MgSO4), and filtered. The filtered solution was concentrated under reduced pressure to yield the desired product as a yellow solid (97% yield). 1H-NMR (400 MHz, CDCl3) δ8.78 (s, 1H), 8.61 (d, 1H, 7.79 (d, 1H), 7.59 (m, 2H), 7.39 (m, 1H), 6.71 (d, 1H), 5.18 (s, 2H), 4.28 (br s, 2H), 3.85 (s, 3H).

reactant | 4-nitro-3-(pyridin-3-ylmethoxy)-benzoic acid methyl ester | 1.0 mmol, 288 mg | COC(C1=CC(=C(C=C1)[N+](=O)[O-])OCC=1C=NC=CC1)=O | C14H12N2O5
solvent | methanol | 2 mL | CO | CH4O
solvent | ammonium chloride | 1 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 2.0 mmol, 131 mg | [Zn] | Zn
product | 4-Amino-3-(pyridin-3-ylmethoxy)-benzoic acid methyl ester | 97% yield | COC(C1=CC(=C(C=C1)N)OCC=1C=NC=CC1)=O | C14H14N2O3
